US06320050B1
A solution of benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (188 mg, 0.42 mmol) and 3-cyclopentyl-2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-propionic acid (94 mg, 0.28 mmol) in N,N-dimethylformamide (5 mL) was treated with N,N-diisopropylethylamine (150 μL, 0.85 mmol) and 2-aminothiazole (42.5 mg, 0.42 mmol). The mixture was stirred at 25° C. for 48 h. At this time, the reaction mixture was poured into cold water (25 mL) containing a 1N aqueous hydrochloric acid solution (50 mL) and extracted into ethyl acetate (2×75 mL) and diethyl ether (1×25 mL). The organics were then washed with water (2×75 mL) and a saturated aqueous sodium chloride solution (3×75 mL), dried over magnesium sulfate and sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-N-thiazol-2-yl-propionamide (50.5 mg, 43.1%) as a clear oil: FAB-HRMS m/e calcd for C19H21F3N2OS2 (M+H)+415.1125, found 415.1123.

reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 0.42 mmol, 188 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 3-cyclopentyl-2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-propionic acid | 0.28 mmol, 94 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)SC)C(F)(F)F | C16H19F3O2S
reactant | N,N-diisopropylethylamine | 0.85 mmol, 150 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-aminothiazole | 0.42 mmol, 42.5 mg | NC=1SC=CN1 | C3H4N2S
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 25 mL | O | H2O
product | 3-cyclopentyl-2-(4-methylsulfanyl-3-trifluoromethyl-phenyl)-N-thiazol-2-yl-propionamide | 50.5 mg, 43.1% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)SC)C(F)(F)F | C19H21F3N2OS2
